US06787652B1
2-[3,5-Dichloro-4-(3-chlorosulfonyl-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione
To a cooled (0° C.), stirred solution of chlorosulfonic acid (1 mL) was added 2-[3,5-dichloro-4-(4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione (0.6 g). After 30 min, the resulting brown solution was poured over ice and the resulting mixture was allowed to stir at ambient temperature for 30 min, the solids filtered and dried in vacuo to afford the title compound of Step A as a colorless solid, 0.7 g.

reactant | chlorosulfonic acid | 1 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2-[3,5-dichloro-4-(4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | 0.6 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)Cl)N1N=CC(NC1=O)=O | C16H11Cl2N3O4
product | 2-[3,5-Dichloro-4-(3-chlorosulfonyl-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)S(=O)(=O)Cl)Cl)N1N=CC(NC1=O)=O | C16H10Cl3N3O6S
